US07528136B2
b) 1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid methyl ester
Benzyl-4-oxo-pyrrolidine-2-carboxylic acid methyl ester (100 mg, 0.428 mmol) and 3,5-bis-trifluoromethyl-benzylamine (125 mg, 0.514 mmol) were dissolved in dry DCM (2 mL), acetic acid (0.1 mL) and NaBH(OAc)3 (180.6 mg, 0.856 mmol) was then added. After stirred for 3 hours the reaction mixture was diluted with DCM, washed with saturated NaHCO3 (cautiously), dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography to afford the title product 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid methyl ester 124 mg (63%) as a yellow oil.

reactant | Benzyl-4-oxo-pyrrolidine-2-carboxylic acid methyl ester | 0.428 mmol, 100 mg | COC(=O)C1N(CC(C1)=O)CC1=CC=CC=C1 | C13H15NO3
reactant | 3,5-bis-trifluoromethyl-benzylamine | 0.514 mmol, 125 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.856 mmol, 180.6 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid methyl ester | 124 mg, 63% | COC(=O)C1N(CC(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC=CC=C1 | C22H22F6N2O2
